US07326731B2
2′-Trifluoromethylbiphenyl-4-carboxylic acid (R)-(6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)indan-1-yl)amide
Stir a mixture of 2′-trifluoromethylbiphenyl-4-carboxylic acid (100 mg, 0.376 mmol), N-hydroxysuccinimmide (43 mg, 0.376 mmol) and DCC (77 mg, 0.376 mmol) in 15 mL of methylene chloride at rt for 2 h. Combine (6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)indan-1-yl)carbamic acid tert-butyl ester (129 mg. 0.313 mmol) with TFA (2 mL) at 0° C. and stir for 2 hr. Evaporate TFA under reduced pressure. Dissolve the residue in methylene chloride and evaporate to dryness; repeat this three times. Add 5 mL of methylene chloride and 1 mL of triethylamine. Add this resulting solution to the above mixture and stir at rt for 12 h. Pour the mixture into methylene chloride, wash with water, dry with Na2SO4, and concentrate. Purify the residue by column chromatography (silica gel, 3% MeOH in CH2Cl2) to give 82 mg of the title compound as a white solid (47% yield).

reactant | 2′-trifluoromethylbiphenyl-4-carboxylic acid | 0.376 mmol, 100 mg | FC(C1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
reactant | DCC | 0.376 mmol, 77 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)indan-1-yl)carbamic acid tert-butyl ester | 0.313 mmol, 129 mg | C(C)(C)(C)OC(NC1CCC2=CC=C(C=C12)N=C(C)NCCC1=CC=C(C=C1)F)=O | C24H30FN3O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2′-Trifluoromethylbiphenyl-4-carboxylic acid (R)-(6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)indan-1-yl)amide | 82 mg, 47% yield | FC1=CC=C(CCNC(C)=NC2=CC=C3CC[C@H](C3=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)C(F)(F)F)C=C1 | C33H29F4N3O
